US05021435
Nicotinealdehyde (2.16 ml, 22.9 mmol) and N,N-dimethylethylenediamine (2.51 ml, 22.9 mmol) were added to toluene (100 ml) and the mixture was subjected to azeotropic dehydration for 2 hours. After cooling, solvent was distilled off to obtain N-nicotinylidene-N',N'-dimethylethylenediamine (4.13 g, yield 102%).

reactant | Nicotinealdehyde | 22.9 mmol, 2.16 ml | C1=CC(=CN=C1)C=O | C6H5NO
reactant | N,N-dimethylethylenediamine | 22.9 mmol, 2.51 ml | CN(CCN)C | C4H12N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-nicotinylidene-N',N'-dimethylethylenediamine | 4.13 g, yield 102% | C(C1=CN=CC=C1)=NCCN(C)C | C10H15N3
